US08703768B2
Step 6: 5-Amino-2-pyridin-2-yl-thiazole-4-carboxylic acid methylamide
A solution of 5-tert-butoxycarbonylamino-2-pyridin-2-yl-thiazole-4-carboxylic acid methylamide (34 mg, 0.10 mmol) in dichloromethane (0.5 ml) was treated with trifluoroacetic acid (0.5 ml) and stirred at ambient temperature for 3 h. After solvent evaporation, the residue was dissolved in ethyl acetate and washed with NaOH (1N aqueous solution), water and brine. The organic layer was dried and the solvent was evaporated. The remaining residue was suspended in diethylether, sucked off, and the remaining material was dried to yield the product as yellow solid (10 mg, 42%).

reactant | 5-tert-butoxycarbonylamino-2-pyridin-2-yl-thiazole-4-carboxylic acid methylamide | 0.10 mmol, 34 mg | CNC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)C1=NC=CC=C1 | C15H18N4O3S
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 5-Amino-2-pyridin-2-yl-thiazole-4-carboxylic acid methylamide | 10 mg, 42% | CNC(=O)C=1N=C(SC1N)C1=NC=CC=C1 | C10H10N4OS
